US06469188B1
1-(cyclopentadienyl)-3,3,5,5-tetramethylcyclohexane.
A 500 mL flask was charged with LiAlH4 (2.50 g, 65.9 mmol) and 200 mL tetrahydrofuran. An addition funnel containing 3,3,5,5-tetramethylcyclohexylfulvene (11.89 g, 58.8 mmol) dissolved in 50 mL tetrahydrofuran was attached. The vessel was cooled to 0° C. before dropwise addition over 25 minutes. After 17 hours of stirring at room temperature, the vessel was cooled to 0° C. and 20 mL of water were added dropwise. Then, aqueous NH4Cl (100 mL) and water (200 mL) were added before the organic layer was isolated. 15 mL of concentrated aqueous HCl were added to the aqueous layer and it was extracted with diethyl ether (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and rotavapped to provide 11.87 grams of product (98.8%) as a light orange oil. MS (GC-MS) m/z 204.3 (M+).

reactant | LiAlH4 | 65.9 mmol, 2.50 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3,3,5,5-tetramethylcyclohexylfulvene | 58.8 mmol, 11.89 g | CC1(CC(CC(C1)(C)C)C1=CC=CC1=C)C | C16H24
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | HCl | 15 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 1-(cyclopentadienyl)-3,3,5,5-tetramethylcyclohexane | 11.87 grams, 98.8% | C1(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | C15H24
